US07304081B2
Step 2: Synthesis of 2-(1-benzyl-3-hydroxypyrrolidin-3-yl)-N-(tert-butyl)benzenesulfonamide
To a solution of N-(tert-butyl)benzenesulfonamide (536 mg, 0.00251 mol) in ether (10 mL, 0.1 mol) was added 1.7 M of tert-butyllithium in pentane (4.4 mL) under nitrogen at −78° C. The mixture was stirred at −78 Celsius for 15 min, then at 0 Celsius for 1 hour, and then cooled down to −78 Celsius again. A solution of 1-benzylpyrrolidin-3-one (400.0 mg, 0.002283 mol) in ether (3 mL) was added to the above solution. The reaction solution was stirred at −78 Celsius for 2 hours, then quenched with saturated NH4Cl aqueous solution, and then extracted with EtOAc. The organic phase was washed with brine, then dried over MgSO4. The residue was purified by flash chromatography on silica gel column with 30% AcOEt in hexanes to give the desired compound (350 mg, 39% yield). MS (ESI): 389.1 (M+H+).

reactant | N-(tert-butyl)benzenesulfonamide | 0.00251 mol, 536 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=CC=C1 | C10H15NO2S
reactant | tert-butyllithium | 1.7 M | C(C)(C)(C)[Li]
reactant | 1-benzylpyrrolidin-3-one | 0.002283 mol, 400.0 mg | C(C1=CC=CC=C1)N1CC(CC1)=O | C11H13NO
solvent | pentane | 4.4 mL | CCCCC | C5H12
solvent | ether | 3 mL | CCOCC | C4H10O
solvent | ether | 0.1 mol, 10 mL | CCOCC | C4H10O
product | 2-(1-benzyl-3-hydroxypyrrolidin-3-yl)-N-(tert-butyl)benzenesulfonamide | 350 mg, 39% yield | C(C1=CC=CC=C1)N1CC(CC1)(O)C1=C(C=CC=C1)S(=O)(=O)NC(C)(C)C | C21H28N2O3S
